US08017602B2
Triton-B (0.4 ml, 0.88 mmol) was added to a stirred mixture of 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)ethanol [Example 13, Step iii)] (1.7 g) and tert-butyl acrylate (8 mL). The mixture was stirred at room temperature over 1 h. The crude product was purified by flash silica chromatography, elution gradient 0 to 100% ethyl acetate in isohexane to afford tert-butyl 3-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoate (2.65 g) as a colorless liquid. MS [M+H-C4H8]+=293 (MultiMode+) 1H NMR (300 MHz, CDCl3) δ 7.84 (s, 1H), 7.77 (d, J=2.5 Hz, 1H), 7.40-7.35 (m, 1H), 7.05-6.98 (m, 2H), 3.96 (s, 3H), 3.69 (t, J=6.4 Hz, 2H), 3.66 (t, J=6.9 Hz, 2H), 2.86 (t, J=6.9 Hz, 2H), 2.48 (t, J=6.4 Hz, 2H), 1.43 (s, 9H)

reactant | 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)ethanol | FC1=C(C=C(C=C1)CCO)C=1C=NN(C1)C | C12H13FN2O
reactant | tert-butyl acrylate | 8 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | tert-butyl 3-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoate | 2.65 g | FC1=C(C=C(CCOCCC(=O)OC(C)(C)C)C=C1)C=1C=NN(C1)C | C19H25FN2O3
